US08497381B2
Step 4: {6-Fluoro-2′-[((1S,2R)-2-hydroxy-indan-1-ylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 25, Step 4, using the following starting materials: (6-fluoro-2′-formyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and (1S,2R)-(−)-cis-1-amino-2-indanol.

reactant | (6-fluoro-2′-formyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C17H12F4O3
reactant | (1S,2R)-(−)-cis-1-amino-2-indanol | C1[C@H]([C@H](C2=CC=CC=C21)N)O | C9H11NO
product | {6-Fluoro-2′-[((1S,2R)-2-hydroxy-indan-1-ylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)CN[C@@H]1[C@@H](CC2=CC=CC=C12)O)=O | C26H23F4NO3
